US08039479B2
To a solution of 4-(5-isopropoxy-2-methyl-4-nitrophenyl)cyclohex-3-enone (0.1 mmol) and dimethylamine (0.11 mmol) in 2 mL of 1,2-dicholoroethane, is added AcOH (0.1 mmol) and NaBH(OAc)3 (0.11 mmol). The reaction mixture is stirred at room temperature for 10 hours. After workup and silica flash chromatography (CH2Cl2/MeOH 9:1), 4-(5-isopropoxy-2-methyl-4-nitrophenyl)-N,N-dimethylcyclohex-3-enamine is obtained. MS (ES+): 319.19 (M+1)+.

reactant | 4-(5-isopropoxy-2-methyl-4-nitrophenyl)cyclohex-3-enone | 0.1 mmol | C(C)(C)OC=1C(=CC(=C(C1)C1=CCC(CC1)=O)C)[N+](=O)[O-] | C16H19NO4
reactant | dimethylamine | 0.11 mmol | CNC | C2H7N
reactant | AcOH | 0.1 mmol | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.11 mmol | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 4-(5-isopropoxy-2-methyl-4-nitrophenyl)-N,N-dimethylcyclohex-3-enamine | C(C)(C)OC=1C(=CC(=C(C1)C1=CCC(CC1)N(C)C)C)[N+](=O)[O-] | C18H26N2O3
